Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
Nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of gastroparesis with persistent n/v, bladder 
tumor removal 3 months ago and stent removal 2 weeks ago 
presenting with worsening FTT in setting of ongoing abdominal 
pain.  

Mr. ___ has a prolonged course of abdominal pain, n/v and 
failure to thrive. Patient reports that his symptoms started in 
___ when he experienced 5 days of inability to sleep 
followed by progressive N/V and abdominal pain with progressive 
weight loss. He reports that he has always disliked school but 
didn't have any new stressors at school or home when this all 
started. He denies history of anxiety or depression. Since 
initial symptoms last ___, patient has had such profound n/v 
that he cannot go to school and has been in and out of the 
hospital. He is not currently on any medications but reports 
that he was previously on Ativan that made things a little 
better though this was discontinued by his doctors. ___ to 
ongoing symptoms and inability to tolerate PO, patient has been 
receiving intermittent IV hydration (twice in last week, once at 
his GI's office) and came into ___ today ___ to ongoing FTT 
and concern from his father as the plan was to see GI at ___ 
for additional opinion.  

He denied any real change in his abdominal pain prompting this 
admission. Reports pain is band like, throughout his abdomen. 
Emesis is nonbloody, nonbilious. He denies associated fevers, 
chills, diarrhea, hematochezia or melena.  
 
In the ED, initial vitals were: ___ 44 115/67 16 100%RA  
Exam notable for: mild ttp in RUQ without rebound or guarding  
Labs notable for: WBC 4.2, H/H 12.6/35.8, K 3.2, BUN 4 with Cr 
1.0, ALT 6/AST 12, bili 1.0 with albumin 4.5. lipase 20, lactate 
1.1.  
Imaging notable for: normal abdominal ultrasound.  
Patient was given: 1L NS, GI cocktail and donnatal which he 
threw up and viscous lidocaine.  
Given inability to tolerate PO and per family request, admitted 
for further evaluation.  
Vitals prior to transfer: 97.6 42 106/62 16 97%RA  
On the floor, patient reports pain is ongoing though appears 
somnolent but not in distress.

On further discussion with patient by day team, he endorses all 
of the above. He has frequent episodes of vomiting associated 
with diffuse abdominal pain. He feel that marijuana improves his 
symptoms. He began smoking marijuana prior to the onset of any 
of his GI symptoms. He also reports that hot water relieves his 
nausea/vomiting. Food makes his symptoms worse.
 
Past Medical History:
?Diagnosis of gastroparesis  
?bladder tumor with "low grade neoplasm" removed transurethrally 
with stent in left ureter, removed ___ 
 
Social History:
___
Family History:
Family history of DM, CAD. Denies history of malignancy or GI 
issues.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================
Vital Signs: T 97.5 BP 102/61 HR 40 RR 14 98% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI. Pupils 
dilated, reactive. No thrush
CV: Bradycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Scaphoid abdomen, diffuse tenderness reported with 
palpation but no tenderness with stethoscope auscultation. Area 
of hyperpigmentation across mid-abdomen, no guarding or rigidity
Ext: Warm, well perfused, 2+ distal/radial pulses, no clubbing, 
cyanosis or edema  
Neuro: grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred. 

DISCHARGE PHYSICAL EXAM:
==========================
Vital Signs: T 97.6 BP 114/76 HR 41 RR 14 100%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI. Pupils 
dilated, reactive. No thrush
CV: Bradycardic, regular rhythm, normal S1 + S2, no murmurs, 
rubs, gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Scaphoid abdomen, diffuse tenderness reported with 
palpation but no tenderness with stethoscope auscultation. Area 
of hyperpigmentation across mid-abdomen, no guarding or rigidity
Ext: Warm, well perfused, 2+ distal/radial pulses, no clubbing, 
cyanosis or edema  
Neuro: grossly normal sensation, gait normal
Psych: hostile, agitated, poor insight/judgment
 
Pertinent Results:
ADMISSION/DISCHARGE LABS
=========================
___ 01:48AM BLOOD WBC-4.2 RBC-4.10* Hgb-12.6* Hct-35.8* 
MCV-87 MCH-30.7 MCHC-35.2 RDW-12.2 RDWSD-39.5 Plt ___
___ 01:48AM BLOOD Neuts-41.9 ___ Monos-7.8 Eos-2.1 
Baso-1.2* Im ___ AbsNeut-1.77* AbsLymp-1.98 AbsMono-0.33 
AbsEos-0.09 AbsBaso-0.05
___ 01:48AM BLOOD Glucose-85 UreaN-4* Creat-1.0 Na-142 
K-3.2* Cl-102 HCO3-30 AnGap-13
___ 01:48AM BLOOD Calcium-9.8 Phos-4.4 Mg-2.2

PERTINENT LABS
=========================
___ 01:48AM BLOOD ALT-6 AST-12 AlkPhos-53 TotBili-1.0
___ 01:48AM BLOOD Lipase-20
___ 02:06AM BLOOD Lactate-1.1 Albumin-4.5

IMAGING/STUDIES
=========================
Abdominal U/S ___
FINDINGS: 
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass. 
The main portal vein is patent with hepatopetal flow. There is 
no ascites.
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
measures 2 mm.
GALLBLADDER: There is no evidence of stones or gallbladder wall 
thickening. 
Note is made of a 2 mm gallbladder polyp.
PANCREAS: The pancreas is not well visualized, largely obscured 
by overlying
bowel gas.
KIDNEYS:  Limited views of the right kidney show no 
hydronephrosis.
RETROPERITONEUM:  The visualized portions of aorta and IVC are 
within normal limits.
 
IMPRESSION: 
Normal abdominal ultrasound.
 
Brief Hospital Course:
___ with history of ?gastroparesis with persistent 
nausea/vomiting, s/p bladder tumor removal 3 months ago and 
stent removal 2 weeks ago who presented with worsening nausea, 
vomiting and abdominal pain concerning for cyclic vomiting 
secondary to marijuana use given improvement in symptoms with 
hot bath. There was little concern for obstruction given 
chronicity, unremarkable physical exam and recent BM. There was 
also no evidence of hepatobiliary disease ___ to unremarkable 
RUQ US and LFTs. He was given IV fluids for volume repletion.

Given dilated pupils on exam, we were suspicious of abuse of 
other other substances in addition to marijuana. We attempted to 
obtain a urine sample for a toxicology screen, at which point 
the patient became agitated and demanded to leave the hospital. 

We had extensive discussions with both the patient and his 
mother with the assistance of a sign language interpreter. We 
explained that his severe weight loss was extremely concerning 
and we felt that an expedited inpatient workup would be 
required. We also explained that we were in the process of 
obtaining his outpatient records and that we needed these 
records prior to pursuing any further diagnostic workup. The 
reason for this was to avoid duplicating prior exams and 
procedures that would expose the patient for unnecessary risk. 
The patient and his mother requested a GI consult but we again 
informed them that records would need to be obtained before such 
a consult could take place. We raised the issue that the 
patient's marijuana use may be contributing to his symptoms but 
both patient and his mother were resistant to this idea, 
believing that marijuana was helpful in alleviating his 
abdominal pain.

Both the patient and his mother understood the risks but chose 
to leave and are planning to return later in the week for a 
previously scheduled outpatient GI visit. We advised them to 
obtain copies of the ___ medical record prior to that 
visit.

Transitional Issues:
- needs further evaluation to determine the cause of his 
significant weight loss along with pain and vomiting
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Abdominal pain
Nausea/vomiting
Ongoing marijuana use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came in because your abdominal pain and vomiting became 
worse. We gave you fluid in the emergency room to treat your 
dehydration.

Because your weight is so low we wanted you to stay in the 
hospital for more testing. However, you decided to leave the 
hospital.

Please follow up with the gastroenterology specialist on 
___.
 
Followup Instructions:
___